US07612103B2
0.254 g of 3-acetoxy-N—(N-BOC-(R)-valyl)-1,2,3,6-tetrahydropyridine, dissolved in 5 ml of EtOH are treated with 2N ethanolic NaOH under ice-cooling. To the mixture obtained acetic acid is added in order to neutralize the reaction mixture and solvent is evaporated. The evaporation residue obtained is mixed with CHCl3, the mixture obtained is washed with NaCl-solution, the organic phase is dried and solvent is evaporated. N—(N-BOC-(R)-valyl)-1,2,3,6-tetrahydropyridin-3-ol is obtained. 1H-NMR: 5.9(m,2H,HIV, HV), 4.51, 4.45(2xdd,1H, NHCHCO,J=5.2 Hz,J=9.0 Hz), 1.4 (b,9H,(CH3)3), 0.9(m,6H,CH(CH3)2).

reactant | 3-acetoxy-N—(N-BOC-(R)-valyl)-1,2,3,6-tetrahydropyridine | 0.254 g | C(C)(=O)OC1CN(CC=C1)C([C@H](NC(=O)OC(C)(C)C)C(C)C)=O | C17H28N2O5
reactant | NaOH | 2N | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | EtOH | 5 ml | CCO | C2H6O
product | N—(N-BOC-(R)-valyl)-1,2,3,6-tetrahydropyridin-3-ol | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)N1CC(C=CC1)O | C15H26N2O4
